// sense_amp subcuircuit
subckt sense_amp in ref seb nb nt vdd gnd
M3 (nb seb gnd gnd) nsvt25 w=0.4 l=0.28
M2 (gnd seb nt gnd) nsvt25 w=0.4 l=0.28
M1 (nt nb gnd gnd) nsvt25 w=0.4 l=0.28
M0 (gnd nt nb gnd) nsvt25 w=0.4 l=0.28
M8 (net25 seb vdd vdd) psvt25 w=0.4 l=0.28
M7 (net25 ref net33 vdd) psvt25 w=0.4 l=0.28
M6 (net29 in net25 vdd) psvt25 w=0.4 l=0.28
M5 (nt nb net33 vdd) psvt25 w=0.4 l=0.28
M4 (net29 nt nb vdd) psvt25 w=0.4 l=0.28
ends sense_amp